US06548506B2
7-Fluoro-8-[4-benzylpiperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid was prepared under the conditions of Example 2, but from 2 g of 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 4.6 g of N-benzylpiperazine in 20 cm3 of pyridine. After recrystallizing twice from 25 cm3 of dimethylformamide on each occasion, 1.4 g of 7-fluoro-8-[4-benzylpiperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid were obtained in the form of a yellow solid melting at about 311° C.

reactant | 8-chloro-7-fluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 2 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C1)F | C14H8ClFN2O3
reactant | N-benzylpiperazine | 4.6 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | pyridine | 20 cm3 | N1=CC=CC=C1 | C5H5N
product | 7-fluoro-8-[4-benzylpiperazin-1-yl]-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.4 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C=C1N1CCN(CC1)CC1=CC=CC=C1 | C25H23FN4O3
